US07323475B2
a) (1,3-Dioxo-5-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester
4-trifluoromethyl-phthalic acid was reacted with glycine in analogy to Example D-1 b). The crude product was then reacted with methanol in analogy to Example D-1 c); 1H NMR (CDCl3): δ=8.14 (s, 1H), 8.02 (m, 2H), 4.48 (s, 2H), 3.78 (s, 3H).

reactant | 4-trifluoromethyl-phthalic acid | FC(C=1C=C(C(C(=O)O)=CC1)C(=O)O)(F)F | C9H5F3O4
reactant | glycine | NCC(=O)O | C2H5NO2
reactant | methanol | CO | CH4O
product | (1,3-Dioxo-5-trifluoromethyl-1,3-dihydro-isoindol-2-yl)-acetic acid methyl ester | COC(CN1C(C2=CC=C(C=C2C1=O)C(F)(F)F)=O)=O | C12H8F3NO4
